US05604229
2-Amino-2-[2-(4-octylphenyl)ethyl]-1,3-propanediol hydrochloride
2-Amino-2-[2-(4-octylphenyl)ethyl]-1,3-propanediol (7 g) was dissolved in ethanol (50 ml) and a 1N hydrochloric acid/ether solution (50 ml) was added thereto. The solvent was distilled away and the resultant crystals were recrystallized from ethanol to give 4.2 g of the subject compound.

reactant | 2-Amino-2-[2-(4-octylphenyl)ethyl]-1,3-propanediol | 7 g | NC(CO)(CO)CCC1=CC=C(C=C1)CCCCCCCC | C19H33NO2
reactant | hydrochloric acid ether | 1N, 50 ml | Cl.CCOCC
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Amino-2-[2-(4-octylphenyl)ethyl]-1,3-propanediol hydrochloride | 4.2 g | Cl.NC(CO)(CO)CCC1=CC=C(C=C1)CCCCCCCC | InChI=1S/C19H33NO2.ClH/c1-2-3-4-5-6-7-8-17-9-11-18(12-10-17)13-14-19(20,15-21)16-22;/h9-12,21-22H,2-8,13-16,20H2,1H3;1H
